US05075313
A solution of 5-methoxyindole (10.0 g, 67.9 mmol), 5.5 ml formaldehyde (37% aqueous solution), Meldrum's acid (10 g, 69 mmol), and proline (0.4 g) in 40 ml of acetonitrile was stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo to provide a brown foam. The product was taken up in about 50 ml of acetone, and about 50 ml of water was added to the cloud point. The mixture was allowed to stand in the freezer and, after crystallization began, additional water was added with swirling again to the cloud point Vacuum-assisted filtration provided 16.2 g of 2-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)methyl-5-methoxyindole as sand-colored crystals.

reactant | 5-methoxyindole | 67.9 mmol, 10.0 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | formaldehyde | 5.5 ml | C=O | CH2O
reactant | Meldrum's acid | 69 mmol, 10 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | water | about 50 ml | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetone | about 50 ml | CC(=O)C | C3H6O
catalyst | proline | 0.4 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 2-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)methyl-5-methoxyindole | 16.2 g | CC1(OC(C(C(O1)=O)CC=1NC2=CC=C(C=C2C1)OC)=O)C | C16H17NO5
